US05407943
B. 7-(2-Amino-7-azaspiro[3.5]non-7-yl)-6-fluoro-1(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, hydrochloride salt
A solution of 7- (2-tert-butoxycarbonylamino-7-azaspiro[3.5 ]non-7-yl) 6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester (399 mg, 0.68 mmol) was hydrolyzed with hydrochloric acid to provide the title product, mp 270° C. (decomp.), 223 mg (0.45 mmol, 58% yield for two steps).

reactant | 7- (2-tert-butoxycarbonylamino-7-azaspiro[3.5 ]non-7-yl) 6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester | 0.68 mmol, 399 mg | C(C)(C)(C)OC(=O)NC1CC2(C1)CCN(CC2)C2=C(C=C1C(C(=CN(C1=N2)C2=C(C=C(C=C2)F)F)C(=O)OCC)=O)F | C30H33F3N4O5
reactant | hydrochloric acid | Cl | ClH
product | 7-(2-Amino-7-azaspiro[3.5]non-7-yl)-6-fluoro-1(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, hydrochloride salt | 58% yield | Cl.NC1CC2(C1)CCN(CC2)C2=C(C=C1C(C(=CN(C1=N2)C2=C(C=C(C=C2)F)F)C(=O)O)=O)F | InChI=1S/C23H21F3N4O3.ClH/c24-12-1-2-18(16(25)7-12)30-11-15(22(32)33)19(31)14-8-17(26)21(28-20(14)30)29-5-3-23(4-6-29)9-13(27)10-23;/h1-2,7-8,11,13H,3-6,9-10,27H2,(H,32,33);1H
